Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],-1.82673915379
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.56484451885
[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7]>>[O:1]=[C:2]([H:3])[C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10],-4.28187612719
[H:17].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])=[C:14]([H:15])[H:16]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.9724634598
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.47364982092
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]#[C:7][O:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9],-1.95846991727
[H:1][C:2][O:3]/[C:4]=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.25927256192
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12].[H:1],5.977974801009999
[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7],1.84330626315
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.572316605299
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]1[O:4][C:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-2.77534533335
[C:3]([H:4])([H:5])[O:6][C:7][H:8].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][H:8],-0.617259953041
[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-4.242168618319997
[H:14].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.48751099484
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.32206129195
[H:1][C:2]([H:3])[O:4][C:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.83009815641
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],1.08886590771
[C:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]=[C:7]([H:8])[H:9],-3.17076721838
[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-5.504062728069999
[H:1][O:2][C:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.50514601105
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[O:12][H:13],6.57169049145
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-2.40850947324
[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1],4.23216264049
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[O:10][H:11]>>[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]=[C:8]([H:9])[O:10][H:11],2.80071960773
[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4][O:5][C:6][H:7],4.10802583039
[C:8]([H:9])[H:10].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-6.469753753790001
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-6.31206018185
[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.3567508692000003
